US08791107B2
5-(4-(methylsulfonyl)benzyl)-2-(1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 3 using 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x9, 50 mg, 0.127 mmol), 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[3,2-b]pyridine (61.8 mg, 0.253 mmol) and PdCl2(dppf) (4.63 mg, 6.33 μmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.03-3.18 (m, 1H), 3.18-3.30 (m, 5H), 3.73-3.87 (m, 2H), 3.92-4.19 (m, 3H), 4.59-4.81 (m, 3H), 6.76-6.97 (m, 1H), 7.53-7.77 (m, 2H), 7.86-8.08 (m, 2H), 8.14-8.33 (m, 1H), 8.96-9.20 (m, 1H), 9.26-9.42 (m, 1H), 12.40-12.69 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C24H24N6O3S, 477.16. found 477.2.

reactant | 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.127 mmol, 50 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[3,2-b]pyridine | 0.253 mmol, 61.8 mg | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)C=CN2)C | C13H17BN2O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 6.33 μmol, 4.63 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-(methylsulfonyl)benzyl)-2-(1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | CS(=O)(=O)C1=CC=C(CN2C=3C=NC(=NC3N3C(C2)COCC3)C=3C=C2C(=NC3)C=CN2)C=C1 | C24H24N6O3S
